Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
increasing contractions
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ G3P2 at 40w5d presents with progressively increasing 
contractions x1 week with loss of mucous plug at 2:30am. Denies 
vaginal bleeding and LOF. Endorses CTX and AFM. 
 
Past Medical History:
PNC: 
- ___ ___ by US
- Labs Rh+/A+/ab-/RI/RPRNR/HIV-/HBsAg-/GBS neg
- Antepartum testing:
    Pt reports low risk ERA completed at ___.
    No ___ or amnio.
- FFS L hydronephrosis with caliectasis, 30.2mm in diameter, and
renal cortical thinning. Suspected left UPJ obstruction. F/u 
done
at Children's ___. 
- Abnl 1hr GLT (144), normal 3hr GTT (87, 176, 131, 39) 
- U/S ___, EGA 39w3d, EDC 39w3d, Cephalic presentation, AFI
14.9cm, posterior placenta with anterior succinaturiate lobe. 
- EFW ___ 3316g/7lbs5oz (51st% percentile)  
- Issues: complaints of recurrent HA, negative work-ups for 
___,
___ Uric Acid 8.9 
 
OBHx:
- SVD x2 term 
- Date: ___.
  Gestational age: ___. 
  Number of babies: 1. 
  Birth weight: 5lbs3oz. 
  Sex: Male. 
  Anesthesia: Epidural. 
  Live born: Yes. 
  Complications: placenta calcification, LGA, elevated BPs at
term, no official diagnosis of PIH ___
- Date: ___.
  Gestational age: ___. 
  Number of babies: 1. 
  Birth weight: 7lbs3oz. 
  Sex: Male 
  Anesthesia: Epidural. 
  Live born: Yes. 
  Complications: Bilateral polydactyl, cleft in left ear, 
seizure
disorder, ?autism

GynHx:
- Abnormal Pap: Yes: Treatment: ___, normal f/u.
- Chlamydia, treated ___ years ago.
 
PMH:
- Asthma-albuterol prn
- Scolisis c/b sciatica 
 
PSH: 
- Laproscopic IUD removal ___ uterine perforation in ___. 

 
Social History:
Denies T/E. Marijuana daily, stopped in early pregnancy
 
Physical Exam:
VS  120s-170s/60s-80s   HR ___ 100s   
Gen: A&O, comfortable s/p CSE
CV: RRR, normal S1/S2 appreciated
PULM: CTAB, no wheezes appreciated
Abd: soft, gravid, nontender
EFW 7lbs by ___
Ext: No calf tenderness, slight bilateral ankle edema (L>R)
 
SVE:  
cervix ___ per RN

Toco q2-4mins, difficult to trace
FHT 145/moderate varability/+accels/intermittent variable decels

 
Pertinent Results:
___ 09:43AM   CREAT-0.8
___ 09:43AM   ALT(SGPT)-16
___ 09:43AM   URIC ACID-8.8*
___ 08:26AM   WBC-17.7* RBC-5.11 HGB-14.7 HCT-41.6 MCV-82 
MCH-28.7 MCHC-35.2* RDW-13.5
___ 08:26AM   PLT COUNT-___ yo G3 now P3 who was admitted to L&D on ___. She had a 
spontaneous vaginal delivery and delivered a liveborn infant 
with normal APGARS. For her gestational hypertension, her labs 
were notable for uric acid 8.8 and she was started on labetolol 
100mg BID on ___. She developed a mild HA on ___ which 
resolved with ibuprofen and tylenol. The rest of her postpartum 
course was uncomplicated, her pain was well controlled and BPs 
were within normal range. She was discharged on PPD#3 in stable 
condition with follow up to be scheduled. 
 
Medications on Admission:
PNV
 
Discharge Medications:
1. Ibuprofen 600 mg PO Q6H:PRN Pain 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every six (6) hours 
Disp #*40 Tablet Refills:*0
2. Labetalol 100 mg PO BID pregnancy induced hypertension 
RX *labetalol 100 mg 1 tablet(s) by mouth twice a day Disp #*60 
Tablet Refills:*2

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
vaginal delivery
gestational hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
routine postpartum instructions given
 
Followup Instructions:
___